US08283353B2
2-(bromomethyl)-4-(1-methylpropyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 2-(methoxymethyl)-4-(1-methylpropyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (0.07 g), boron tribromide (1.0 M dichloromethane solution, 0.4 mL) and dichloromethane (5 mL) was stirred at room temperature for 2 hr, saturated aqueous sodium hydrogen carbonate (10 mL) was added, and the mixture was further stirred for 1 hr. The reaction mixture was adjusted to pH 5 with 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.013 g, 2%).

reactant | 2-(methoxymethyl)-4-(1-methylpropyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.07 g | COCC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)=O)C(CC)C)=N1 | C29H32N6O4
reactant | boron tribromide | 1.0 M, 0.4 mL | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(bromomethyl)-4-(1-methylpropyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.013 g, 2% | BrCC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)=O)C(CC)C)=N1 | C28H29BrN6O3
